US07427390B2
664 mg (4 mmol) of benzyloxyacetic acid is introduced into 20 ml of methylene chloride, mixed with 768 mg (4 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide (EDG), and stirred for 0.5 hour at 4° C. Then, 1.06 g (4 mmol) of 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide in a total of 12 ml of methylene chloride is added to the batch and stirred for 48 hours at room temperature. After 30 ml of water is added, it is extracted twice with 30 ml each of methylene chloride. The organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on 20 g of Isolute NH2 (50 μm) with methylene chloride. The correspondingly combined fractions are concentrated by evaporation and chromatographed again on 20 g of Isolute NH2 (50 μm) with a gradient from cyclohexane to cyclohexane:methylene chloride=50:50 as an eluant, and 348 mg (27% of theory) of N-(2-diethylamino-ethyl)-4-(2-benzyloxy-acetylamino)-2-methoxy-benzamide is obtained as an oil.

reactant | benzyloxyacetic acid | 4 mmol, 664 mg | C(C1=CC=CC=C1)OCC(=O)O | C9H10O3
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 4 mmol, 768 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 4 mmol, 1.06 g | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H23N3O2
reactant | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | N-(2-diethylamino-ethyl)-4-(2-benzyloxy-acetylamino)-2-methoxy-benzamide | 348 mg, 27% | C(C)N(CCNC(C1=C(C=C(C=C1)NC(COCC1=CC=CC=C1)=O)OC)=O)CC | C23H31N3O4
